US07384945B2
4-[tert-Butoxycarbonyl-(4-trifluoromethoxy-benzyl)-amino]-3-nitro-benzoic acid allyl ester
7.5 g of 3-nitro-4-(4-trifluoromethoxy-benzylamino)-benzoic acid allyl ester (18.9 mmol) were dissolved in 100 ml THF. 8.25 g di-tert. butyl-dicarbonate (37.8 mmol), 8 ml diisopropylethylamine (47.2 mmol) and 3.4 g dimethylaminopyridine (28.3 mmol) were added and the reaction stirred at room temperature for 16 h. The solvent was evaporated and the crude product digerated from cyclohexane to result in orange crystals which were not further characterized.

reactant | 3-nitro-4-(4-trifluoromethoxy-benzylamino)-benzoic acid allyl ester | 18.9 mmol, 7.5 g | C(C=C)OC(C1=CC(=C(C=C1)NCC1=CC=C(C=C1)OC(F)(F)F)[N+](=O)[O-])=O | C18H15F3N2O5
reactant | di-tert. butyl-dicarbonate | 37.8 mmol, 8.25 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethylamine | 47.2 mmol, 8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylaminopyridine | 28.3 mmol, 3.4 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-[tert-Butoxycarbonyl-(4-trifluoromethoxy-benzyl)-amino]-3-nitro-benzoic acid allyl ester | C(C=C)OC(C1=CC(=C(C=C1)N(CC1=CC=C(C=C1)OC(F)(F)F)C(=O)OC(C)(C)C)[N+](=O)[O-])=O | C23H23F3N2O7
